US05244889
Ethyl 3-t-butoxycarbonylmethylidene-2-oxo-1-azacyclodecane-10-carboxylate (2.85 g, 8.4 mmol) is dissolved in ethyl acetate (75 mL). 10% Pd/C (2.0 g) is added, and the reaction is stirred under an atmosphere of hydrogen for 4.5 hours. The reaction is filtered through Celite, and the solvent is removed. The crude product is purified by silica gel chromatography (20% ethyl acetate/hexane) to give separately the two diastereomers of ethyl 3-t-butoxycarbonylmethyl-2-oxo-1-azacyclodecane-10-carboxylate.

reactant | Ethyl 3-t-butoxycarbonylmethylidene-2-oxo-1-azacyclodecane-10-carboxylate | 8.4 mmol, 2.85 g | C(C)(C)(C)OC(=O)C=C1C(NC(CCCCCC1)C(=O)OCC)=O | C18H29NO5
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 2.0 g | [Pd] | Pd
product | ethyl 3-t-butoxycarbonylmethyl-2-oxo-1-azacyclodecane-10-carboxylate | C(C)(C)(C)OC(=O)CC1C(NC(CCCCCC1)C(=O)OCC)=O | C18H31NO5
